US06232313B1
7-Chloro-4-hydroxy-2-(2-methylsulfonylethyl)-1,2,5,10-tetrahydropyridazino[4,5-b]quinoline-1,10-dione.
To a solution of 7-Chloro-4-hydroxy-2-(2-methylthioethyl)-1,2,5,10-tetrahydropyridazino[4,5-b]quinoline-1,10-dione (0.11 g, 0.33 mM) in methanol (5 mL) stirred at room temperature, was added OXONE, a monopersulfate compound (250 mg, 1.0 mM) dissolved in water (1 mL). The resulting mixture was stirred at room temperature for 17 hours. Water (10 mL) was added and the reaction mixture was filtered. The crude product was again stirred with warm water to completely remove the oxidant. Filtration and vacuum drying yielded the product analytically pure as a white solid. Isolated 95 mg, 75%.

reactant | 7-Chloro-4-hydroxy-2-(2-methylthioethyl)-1,2,5,10-tetrahydropyridazino[4,5-b]quinoline-1,10-dione | 0.33 mM, 0.11 g | ClC=1C=CC=2C(C3=C(NC2C1)C(=NN(C3=O)CCSC)O)=O | C14H12ClN3O3S
reactant | OXONE | OOS(=O)[O-].[K+]
reactant | methanol | 5 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
solvent | Water | 10 mL | O | H2O
product | 7-Chloro-4-hydroxy-2-(2-methylsulfonylethyl)-1,2,5,10-tetrahydropyridazino[4,5-b]quinoline-1,10-dione | ClC=1C=CC=2C(C3=C(NC2C1)C(=NN(C3=O)CCS(=O)(=O)C)O)=O | C14H12ClN3O5S
